US04758582
163 g (1 mole) of 1,5-dichloro-3,3-dimethyl-pent-1-en-4-ine and 232 g (2 moles) of sodium phenolate in 1 liter of absolute N,N-dimethylformamide are heated to 140° C. in the course of 3 hours and stirring is then continued for 4 hours. The mixture is worked up as described for method A, giving 204 g of crude product, which after distillation (boiling point 0.15/87°-94° C.) gives 141 g (that is to say 64% of theory) of 1-chloro-3,3-dimethyl-2-phenoxy-pent-1-en-4-ine.

reactant | 1,5-dichloro-3,3-dimethyl-pent-1-en-4-ine | 1 mole, 163 g | ClC=CC(C#CCl)(C)C | C7H8Cl2
reactant | sodium phenolate | 2 moles, 232 g | C1(=CC=CC=C1)[O-].[Na+]
solvent | N,N-dimethylformamide | 1 liter | CN(C=O)C | C3H7NO
product | 1-chloro-3,3-dimethyl-2-phenoxy-pent-1-en-4-ine | 141 g, 64% | ClC=C(C(C#C)(C)C)OC1=CC=CC=C1 | C13H13ClO
